US08022206B2
1-[2-Chloro-6-(trifluoromethyl)phenyl]ethanol
To a solution of 2-chloro-6-(trifluoromethyl)benzaldehyde (266.9 mg, 1.280 mmol, 1 eq) in anhydrous THF (5 mL) at 0° C. under nitrogen, a 3.0 M solution of methylmagnesium bromide in Et2O (0.50 mL, 1.5 mmol, 1.2 eq) was added and the reaction was allowed to stir and warm to ambient temperature overnight. The reaction mixture was again cooled to 0° C. and saturated NH4Cl was added. Diethyl ether was also added and the layers were separated. The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The colorless oil crude was purified by chromatography on silica gel [0.5″×10″ glass column, eluting with 1:1 CH2Cl2:Heptane]. Fractions containing product were combined and concentrated in vacuo, affording the title material as a clear and colorless oil. 1H NMR (400 MHz, CDCl3) δ=1.73 (d, J=6.8 Hz, 3H), 3.04 (br s, 1H), 5.43 (q, J=6.8 Hz, 1H), 7.33 (ddq, J=8.0, 8.0, 0.8 Hz, 1H), 7.59 (d, J=7.8 Hz, 1H), 7.63 (d, J=7.8 Hz, 1H). MS (ES+): m/z 248.01/250.03 (100/37) [MNa+]. HPLC: tR=3.26 min (ZQ3, polar—5 min).

reactant | 2-chloro-6-(trifluoromethyl)benzaldehyde | 1.280 mmol, 266.9 mg, 1 eq | ClC1=C(C=O)C(=CC=C1)C(F)(F)F | C8H4ClF3O
reactant | methylmagnesium bromide | C[Mg]Br
reactant | Et2O | 1.5 mmol, 0.50 mL, 1.2 eq | CCOCC | C4H10O
reactant | NH4Cl | [NH4+].[Cl-]
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-[2-Chloro-6-(trifluoromethyl)phenyl]ethanol | ClC1=C(C(=CC=C1)C(F)(F)F)C(C)O | C9H8ClF3O
